US06313132B1
N,N-Diisopropyl-3-(oxazol-2-yl)-3-phenylpropanamine hydrochloride
A mixture of N,N-diisopropyl-3-carbamoyl-3-phenylpropanamine, prepared in Example 34.2 (4.05 g, 15.4 mmol), 1,2-dichloroethyl ethyl ether (2,32 g, 16.2 mmol), water (0.300 g, 16.6 mmol) and formic acid (50 mL) was stirred at 75° C. for 3 hours. The formic acid was evaporated and the residue was dissolved in water/diethyl ether. The aqueous phase was made alkaline (11 M NaOH) and extracted twice with diethyl ether. The combined organic phases were dried (Na2SO4) and the solvent evaporated. The crude product was chromatographed on silica (petroleum ether-triethylamine 97:3). The pure amine was precipitated as hydrochloride salt with HCl-saturated diethyl ether, affording the title compound as white crystals, 0.61 g (12%): mp 157-158° C.; 1H NMR (DMSO(d6)) δ1.11 (m, 12H), 2.35 (m, 1H), 2.63 (m, 1H), 3.03 (m, 2H), 3.56 (m, 2H), 4.45 (m, 1H), 7.21-7.40 (m, 6H) 8.06 (d, 1H), 10.20 (br, 1H).

reactant | N,N-diisopropyl-3-carbamoyl-3-phenylpropanamine | C(C)(C)N(CCC(C1=CC=CC=C1)C(N)=O)C(C)C | C16H26N2O
reactant | 1,2-dichloroethyl ethyl ether | 16.2 mmol, 2,32 g | C(C)OC(CCl)Cl | C4H8Cl2O
reactant | water | 16.6 mmol, 0.300 g | O | H2O
solvent | formic acid | 50 mL | C(=O)O | CH2O2
product | N,N-Diisopropyl-3-(oxazol-2-yl)-3-phenylpropanamine hydrochloride | Cl.C(C)(C)N(CCC(C1=CC=CC=C1)C=1OC=CN1)C(C)C | InChI=1S/C18H26N2O.ClH/c1-14(2)20(15(3)4)12-10-17(18-19-11-13-21-18)16-8-6-5-7-9-16;/h5-9,11,13-15,17H,10,12H2,1-4H3;1H
